US04144263
Preparation of 2,4-diamino-5-(3,4,5-trimethoxybenzyl)pyrimidine
A solution of α-carbethoxy-α-diethoxymethyl-β-(3,4,5-trimethoxyphenyl)propionitrile (7.9 g, 0.02 mol) and an equivalent amount of potassium hydroxide in ethanol (50 ml) was heated at reflux for one hour. A solution of guanidine (0.07 mol) in ethanol (50 ml) was added, and reflux was resumed. Some ethanol was allowed to boil off bringing the reaction temperature up to 85°. After about 20 hours at reflux the mixture was allowed to cool, and the product was filtered and washed with ethanol. The crude product was purified by treating with hot aqueous acetic acid and reprecipitation with ammonium hydroxide. The yield of purified trimethoprim (m.p. 197°-198°) was 3.6g (62%), its identity being confirmed by an NMR spectrum.

reactant | α-carbethoxy-α-diethoxymethyl-β-(3,4,5-trimethoxyphenyl)propionitrile | 0.02 mol, 7.9 g | C(=O)(OCC)C(C#N)(CC1=CC(=C(C(=C1)OC)OC)OC)C(OCC)OCC | C20H29NO7
reactant | potassium hydroxide | [OH-].[K+]
reactant | guanidine | 0.07 mol | NC(=N)N | CH5N3
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2,4-diamino-5-(3,4,5-trimethoxybenzyl)pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)OC)OC | C14H18N4O3
